US07871999B2
A mixture of 5.0 g (29.1 mmol) of 1-Boc-3-aminoazetidine and 2.62 ml (29.1 mmol) of 2-bromothiazole was heated to 140° C. with stirring for 2 h. After cooling to RT, 800 mg (3.14 mmol, 11%) of 1-Boc-3-(thiazol-2-ylamino)azetidine were obtained from the mixture by CC (SiO2, 1 st DCE, 2nd chloroform).

reactant | 1-Boc-3-aminoazetidine | 29.1 mmol, 5.0 g | C(=O)(OC(C)(C)C)N1CC(C1)N | C8H16N2O2
reactant | 2-bromothiazole | 29.1 mmol, 2.62 ml | BrC=1SC=CN1 | C3H2BrNS
reactant | DCE | 1 st | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Boc-3-(thiazol-2-ylamino)azetidine | 3.14 mmol, 800 mg, 11% | C(=O)(OC(C)(C)C)N1CC(C1)NC=1SC=CN1 | C11H17N3O2S
